*=========================================================
* 4x4 Biolek Memcapacitive Crossbar
*=========================================================

.SUBCKT memcapacitor Plus Minus PARAMS: Cmin=50n Cmax=200n Cinit=100n k=10meg p=10

*current meter
Vsense Plus nport 0

*leak resistor
Rbleed Plus Minus 1G

*dont let x go below 0 or over 1 
*hard clamp
.func Xlimited(v)={IF(v<0,0,IF(v>1,1,v))}

*------- Joglekar window function ---------
* Equation = 1 - (2x - 1)^2p
* 2p (def of even) keeps number postive 
* x = .5 => top speed 
* x near 0 or 1 => slow down
*soft clamp    
.func window(v,p)={1-(2*Xlimited(v)-1)**(2*p)}
.func DM(v)={1/Cmax+(1/Cmin-1/Cmax)*Xlimited(v)}

* -------- find the charge through the crossbar -------------
* node "q" voltage value is q(t)
Gq 0 q VALUE={I(Vsense)}
Cq q 0 1 IC=0
*Dont leave q floating 
Rq q 0 1G

* -------- Memory state x(t) ------------
* controls capacitince 
* injects current into node x that is proportinal to:
* scaling factor k, V(q) the charge, and Window(V(x), p) slow near 1 & 0
Gx 0 x VALUE={k*V(q)*window(V(x),p)}
Cx x 0 1 IC={(1/Cinit-1/Cmax)/(1/Cmin-1/Cmax)}
*Dont leave x floating 
Rx x 0 1G

* ---- Memcapacitor constitutive relation ----
*Port equation [2] in MEMCAPACITOR MODELING IN MICRO-CAP: 
Ecap nport Minus VALUE={DM(V(x))*V(q)}

.ENDS memcapacitor

*=========================================================
* INPUTS
*=========================================================

V1 row1 0 SIN(0 1.0 1)
V2 row2 0 SIN(0 0.5 1)
V3 row3 0 0
V4 row4 0 0

*=========================================================
* 4x4 WEIGHT MATRIX
*
* 1 2 3 4
* 2 3 4 1
* 3 4 1 2
* 4 1 2 3
*
* 1 -> 50n
* 2 -> 83n
* 3 -> 117n
* 4 -> 150n
*=========================================================

Xm11 row1 col1 memcapacitor PARAMS: Cinit=50n
Xm12 row1 col2 memcapacitor PARAMS: Cinit=83n
Xm13 row1 col3 memcapacitor PARAMS: Cinit=117n
Xm14 row1 col4 memcapacitor PARAMS: Cinit=150n

Xm21 row2 col1 memcapacitor PARAMS: Cinit=83n
Xm22 row2 col2 memcapacitor PARAMS: Cinit=117n
Xm23 row2 col3 memcapacitor PARAMS: Cinit=150n
Xm24 row2 col4 memcapacitor PARAMS: Cinit=50n

Xm31 row3 col1 memcapacitor PARAMS: Cinit=117n
Xm32 row3 col2 memcapacitor PARAMS: Cinit=150n
Xm33 row3 col3 memcapacitor PARAMS: Cinit=50n
Xm34 row3 col4 memcapacitor PARAMS: Cinit=83n

Xm41 row4 col1 memcapacitor PARAMS: Cinit=150n
Xm42 row4 col2 memcapacitor PARAMS: Cinit=50n
Xm43 row4 col3 memcapacitor PARAMS: Cinit=83n
Xm44 row4 col4 memcapacitor PARAMS: Cinit=117n

*=========================================================
* COLUMN CURRENT SENSING
*=========================================================

Vs1 col1 sense1 0
Vs2 col2 sense2 0
Vs3 col3 sense3 0
Vs4 col4 sense4 0

Rout1 sense1 0 1G
Rout2 sense2 0 1G
Rout3 sense3 0 1G
Rout4 sense4 0 1G

*=========================================================
* ANALYSIS
*=========================================================

.TRAN 10m 5 UIC

.PRINT TRAN V(col1) V(col2) V(col3) V(col4) I(Vs1) I(Vs2) I(Vs3) I(Vs4)

.END
